US05508433
By carrying out the procedure as in Example 9 below, using 0.16 g of 2-dimethylaminophenylacetic acid and 0.30 g of (3aR, 7S, 7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride, 0.11 g of (3aR, 7S, 7aR)-2-[(2-dimethylaminophenyl)acetyl]4,4-diphenyl-7-fluoroperhydroisoindole is obtained in the form of a white meringue.

reactant | 2-dimethylaminophenylacetic acid | 0.16 g | CN(C1=C(C=CC=C1)CC(=O)O)C | C10H13NO2
reactant | (3aR, 7S, 7aR)-4,4-diphenyl-7-fluoroperhydroisoindole hydrochloride | 0.30 g | Cl.C1(=CC=CC=C1)C1([C@@H]2CNC[C@@H]2[C@H](CC1)F)C1=CC=CC=C1
product | (3aR, 7S, 7aR)-2-[(2-dimethylaminophenyl)acetyl]4,4-diphenyl-7-fluoroperhydroisoindole | 0.11 g | CN(C1=C(C=CC=C1)CC(=O)N1C[C@@H]2[C@H](CCC([C@@H]2C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)C | C30H33FN2O
